US04659361
2-[[(4-iodo-6-methoxypyrimidin-2-yl)aminocarbonyl]aminosulfonyl]benzoic acid, methyl ester
To a solution of 0.25 g of 2-amino-4-iodo-6-methoxypyrimidine in 5 mL of dry methylene chloride was added 0.30 g 2-carbomethoxybenzenesulfonyl isocyanate. The resulting solution was allowed to stand for 20 hours at ambient temperature. The solution was cooled in an ice bath and crystallization induced with scratching. The crystals were collected, washed with n-butylchloride and dried to afford 0.10 g of the title compound, m.p. b 194°-196° C. (dec).

reactant | 2-amino-4-iodo-6-methoxypyrimidine | 0.25 g | NC1=NC(=CC(=N1)I)OC | C5H6IN3O
reactant | 2-carbomethoxybenzenesulfonyl isocyanate | 0.30 g | C(=O)(OC)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-[[(4-iodo-6-methoxypyrimidin-2-yl)aminocarbonyl]aminosulfonyl]benzoic acid, methyl ester | 0.10 g | IC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C14H13IN4O6S
